Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / doxycycline
 
Attending: ___.
 
Chief Complaint:
hemoptysis
 
Major Surgical or Invasive Procedure:
bronchoscopy

 
History of Present Illness:
Mr. ___ is a ___ male smoker with history of
GERD, former alcoholism, that presents with hemoptysis. 

Three days prior to admission (___) he began coughing up
bright red blood, approximately 6 episodes totaling about ___
blood per the patient. He was seen at ___ where he had a CT
performed showing advanced bullous/emphyhsematous changes and 
2mm
peripheral right lung nodule. He was discharged with ENT follow
up. He subsequently represented to OSH on ___ after he was
unable to be seen as an outpatient by ENT, and was scoped there
by ENT at OSH; no nasopharyngeal source of bleeding identified.
He denied dyspnea, chest pain, epistaxis, fever, abdominal pain,
vomiting, dark or discolored stool. No dizziness or
lightheadedness. He came to the ED for further evaluation. While
in the waiting room he began noticing sharp nonradiating
epigastric pain. 

In the ED:
- Vitals: T98.0, P90, BP156/62, RR18, 99% RA 
- Labs notable for elevated WBC 11.3, hgb normal 15.2. LFTs and
chemistries normal.
- EKG shows sinus rhythm.
- CT report from OSH uploaded to our system, and request for
second opinion read.
- He was give PO diazepam 2mg.
- Medicine was asked to admit for further workup of hemoptosis.

Upon arrival to the floor, the patient describes the events as
noted above. He had taken pictures of the hemoptosis on his 
phone
and showed me, and it was quite an impressive amount. Patient
denies fevers/chills, chest pain, SOB, recent infections
including URI or bronchitis. Has had 12 lb weight loss in 2
months (two months ago weighed 180, now down to 168). Denies
night sweats. 
His last episode of hemoptysis was prior to being transferred
early this afternoon. He's had a total of 3 episodes of
hemoptysis today. He endorses mild generalized abdominal 
cramping
and pain that he states is gas pains and related to hunger 
pains.
 
Past Medical History:
Alcoholism, in remission, last drink 4 months ago.
H/o alcoholic pancreatitis
Hypertension
Anxiety
GERD
 
Social History:
___
Family History:
 Reviewed and found to be not relevant to this
illness/reason for hospitalization.
 
Physical Exam:
ADMISSION
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4. 
RESP: Lungs clear to auscultation with good air movement
bilaterally. No increased work of breathing.
GI: Abdomen soft, mild tenderness to palpation in LUQ and
epigastrum, no rebound or guarding. Bowel sounds present. Not
distended.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric.
PSYCH: pleasant, appropriate affect

DISCHARGE
VITALS: Afebrile and vital signs stable
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4. 
RESP: Lungs clear to auscultation with good air movement
bilaterally. No increased work of breathing.
GI: Abdomen soft, mild tenderness to palpation in LUQ and
epigastrum, no rebound or guarding. Bowel sounds present. Not
distended.
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities.
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric.
PSYCH: pleasant, appropriate affect
 
Pertinent Results:
INITIAL LABS: 
___ 12:22AM BLOOD WBC-11.3* RBC-4.90 Hgb-15.2 Hct-44.7 
MCV-91 MCH-31.0 MCHC-34.0 RDW-12.0 RDWSD-40.7 Plt ___
___ 06:54AM BLOOD Glucose-99 UreaN-13 Creat-0.8 Na-143 
K-4.9 Cl-105 HCO3-26 AnGap-12
___ 12:22AM BLOOD ALT-36 AST-28 AlkPhos-97 TotBili-0.4
___ 06:54AM BLOOD Calcium-9.0 Mg-1.9

DISCHARGE LABS:
___ 06:50AM BLOOD WBC-10.6* RBC-4.73 Hgb-14.5 Hct-44.2 
MCV-93 MCH-30.7 MCHC-32.8 RDW-11.8 RDWSD-40.4 Plt ___
___ 06:50AM BLOOD Glucose-114* UreaN-13 Creat-1.0 Na-142 
K-4.3 Cl-104 HCO3-27 AnGap-11
___ 06:50AM BLOOD Calcium-8.8 Mg-1.9

IMAGING

___ Bronchoscopy 
Clot found at the right upper lobe apical segment. After 
aspirating this there was no active bleeding. BAL performed at 
the right upper lobe.

___ CT Chest w/o contrast high res
With regard to a source of possible hemoptysis, there is no 
endobronchial 
lesion or hematoma, no peripheral lung mass or consolidation, 
and no 
bronchiectasis. 
  
Large areas of ground-glass opacification nearly all in the 
right upper lobe, 
small bronchiolar opacities in the right lower lobe and 
multifocal 
subsegmental atelectasis are new since the chest CT on ___ and the 
subsequent bronchoscopy with lavage. All of those findings could 
be due to 
retained washings, and/or bronchoscopy induced bronchospasm or 
hemorrhage.  
Alternatively the right upper lobe findings could be due to 
either spontaneous 
hemorrhage or aspirated blood. Coincidental pneumonia, 
independent of the 
bronchoscopy is small. 

 
Brief Hospital Course:
# Submassive hemoptysis, active.
# Bullous/emphyhsematous changes
# 2mm peripheral right lung nodule
In the setting of long standing smoking and weight loss, concern 
initially for malignancy though outside CT showed only 2mm 
nodule, unconcerning. ENT scoped at ___, reportedly normal. 
He has had no recent infectious symptoms to suggest 
bronchitis/bronchiectasis as etiology. On RA throughout and VSS. 
Interventional Pulm evaluated the patient. Bronch nondiagnostic 
but clots seen in lungs; ctyology, culture sent. Mild WBC of 11. 
Hb 15. Continued mild hemoptysis throughout stay up to 40ml of 
frothy bloody sputum with occasional clot in cast of small 
airway. ___ wanted CT high res noncon, which showed new ground 
glass opacities in the right upper lobe, which could be 
secondary to the BAL performed in that segment as there was no 
active bleeding or bloody lavage noted. ___ felt that etiology of 
hemoptysis may be related to URI concurrent with severe 
parenchymal abnormalities secondary to bullous emphysema. 
Recommended course of levaquin for possible infectious etiology. 
Hemoptysis did not recur throughout patient's stay in the 
hospital and he felt well on the day of discharge. He was 
educated on steps to take if hemoptysis recurs at home. 
Scheduled outpatient follow up with PCP and ___ contact him 
for follow up in ___ weeks. Also counseled on importance of 
smoking cessation and provided nicotine patch prescription on 
discharge.

# Hypertension. home 10mg lisinopril

# H/o alcoholism, in remission. Continued home diazepam.

# GERD-- home 20mg omeprazole daily

TRANSITIONAL ISSUES: 
- ___ will contact him for follow-up appointment
- smoking cessation
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Diazepam 2 mg PO Q8H:PRN anxiety 
2. Lisinopril 10 mg PO DAILY 
3. Omeprazole 20 mg PO DAILY 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY Duration: 7 Days 
RX *levofloxacin 750 mg 1 tablet(s) by mouth daily Disp #*7 
Tablet Refills:*0 
2.  Nicotine Patch 21 mg/day TD DAILY 
RX *nicotine 21 mg/24 hour apply one patch daily Disp #*30 Patch 
Refills:*1 
3.  Diazepam 2 mg PO Q8H:PRN anxiety  
4.  Lisinopril 10 mg PO DAILY  
5.  Omeprazole 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Upper respiratory infection
Emphysema
Hemoptysis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted because of bloody sputum. This, fortunately 
did not become dangerous. Pulmonary doctors were ___ of your 
care and your bronchoscopy and CT imaging showed an area of 
prior bleeding. This may have been due to the weaker lung tissue 
due to your underlying emphysema, which could have been acutely 
injured due to an upper respiratory infection. We recommend that 
you take the antibiotic called levaquin (levofloxacin) for a 
week. We also strongly recommend that you quit smoking to 
prevent further lung damage. Please follow up with appointments 
as scheduled.
 
Followup Instructions:
___